US07557114B2
(b) 5-(4-Methyl-thiazol-2-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
A mixture containing 3.2 mmol 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester, 15.9 mmol potassium carbonate, 3.8 mmol 2-Iodo-4-methyl-thiazole (CAS: 34203-25-3) and 0.1 mmol tetrakistriphenylphosphine in 11 ml deglazed DMF was stirred at 90° C. for 43 hours. The solvent was removed in vacuo. The residue was taken in ethyl acetate. The mixture was washed twice with water. The aqueous layer was extracted once with ethyl acetate. The combined organic layers were dried over Na2SO4, filtered and the solvent was removed in vacuo. The crude oil was purified on a 50 g Flashpack cartridge (Eluent: Heptane/AcOEt) to afford the title compound as a white solid (36% yield). MS (m/e): 316.1 (M+, 100%)

reactant | 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 3.2 mmol | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)B1OC(C(O1)(C)C)(C)C | C19H28BNO4
reactant | potassium carbonate | 15.9 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | 2-Iodo-4-methyl-thiazole | 3.8 mmol | IC=1SC=C(N1)C | C4H4INS
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-(4-Methyl-thiazol-2-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 36% yield | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)C=1SC=C(N1)C | C17H20N2O2S
